US07560568B2
Ethyl 2-amino-4-hydroxy-1,3-thiazole-5-carboxylate
Prepared according to literature procedure (Baldwin, J. J., et al. J. Med. Chem. 1980, 23, 65-70.) from thiourea and diethyl bromomalonate. MS m/z 189 (m+1).

reactant | thiourea | NC(=S)N | CH4N2S
reactant | diethyl bromomalonate | BrC(C(=O)OCC)C(=O)OCC | C7H11BrO4
product | Ethyl 2-amino-4-hydroxy-1,3-thiazole-5-carboxylate | NC=1SC(=C(N1)O)C(=O)OCC | C6H8N2O3S
